US08278441B2
5-Bromo-2,4-difluorobenzaldehyde
A 1.6 M solution of butyl lithium in hexane (114 mL, 182 mmol) is added to a −78° C. solution of 1,5-dibromo-2,4-difluorobenzene (41.3 g, 152 mmol) in diethyl ether (290 mL). Dimethylformamide (14.4 g, 198 mmol) is added and the reaction is stirred at −78° C. for 15 minutes. The reaction is quenched with 1 N HCl (300 mL), is diluted with water, and extracted three times with ethyl acetate. The organic layer is dried over sodium sulfate and the solvent is removed under reduced pressure to give crude material that is purified by silica gel chromatography with a linear gradient of 0% to 50% CH2Cl2 in hexanes over 30 minutes to give the title compound (20.51 g, 61%). GC-MS m/e (79Br/81Br) 220, 222.

reactant | butyl lithium | C(CCC)[Li]
reactant | hexane | 182 mmol, 114 mL | CCCCCC | C6H14
reactant | 1,5-dibromo-2,4-difluorobenzene | 152 mmol, 41.3 g | BrC1=C(C=C(C(=C1)Br)F)F | C6H2Br2F2
reactant | Dimethylformamide | 198 mmol, 14.4 g | CN(C=O)C | C3H7NO
solvent | diethyl ether | 290 mL | C(C)OCC | C4H10O
product | 5-Bromo-2,4-difluorobenzaldehyde | 20.51 g, 61% | BrC=1C(=CC(=C(C=O)C1)F)F | C7H3BrF2O
